US07019022B2
Alternatively (+/−) ethyl[6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetate was used for the alkylation reaction in step 5 to give a mixture of 2 diastereomers: ethyl[(1R)-9-[(1S)-1-(4-chlorophenyl)ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetate and ethyl[(1S)-9-[(1S)-1-(4-chlorophenyl)ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetate. The diastereomeric mixture was resolved by selective hydrolysis using the following procedure to give the desired [(1R)-9-[(1S)-1-(4-chlorophenyl)ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetic acid.

reactant | (+/−) ethyl[6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetate | C(C)C(C(=O)[O-])C1CCCC=2C3=CC(=CC(=C3NC12)S(=O)(=O)C)F
reactant | ethyl[(1R)-9-[(1S)-1-(4-chlorophenyl)ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetate | C(C)OC(C[C@H]1CCCC=2C3=CC(=CC(=C3N(C12)[C@@H](C)C1=CC=C(C=C1)Cl)S(=O)(=O)C)F)=O | C25H27ClFNO4S
reactant | ethyl[(1S)-9-[(1S)-1-(4-chlorophenyl)ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetate | C(C)OC(C[C@@H]1CCCC=2C3=CC(=CC(=C3N(C12)[C@@H](C)C1=CC=C(C=C1)Cl)S(=O)(=O)C)F)=O | C25H27ClFNO4S
product | [(1R)-9-[(1S)-1-(4-chlorophenyl)ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetic acid | ClC1=CC=C(C=C1)[C@H](C)N1C2=C(C=C(C=C2C=2CCC[C@@H](C12)CC(=O)O)F)S(=O)(=O)C | C23H23ClFNO4S
